US06576656B1
(5) 1-(5-Hydroxypentyl)-4-bromo-6-iodo-3-hydroxy-3-(2-naphthyl)oxindole
To a solution of 1-(5-t-butyldimethylsilyloxypentyl)-4-bromo-6-iodo-3-hydroxy-3-(2-naphthyl)oxindole (450 mg, 0.67 mmol) in THF (5 mL) was added 1 N n-tetrabutylammonium fluoride in THF (1 mL, 1 mmol) and the mixture was stirred for 4 h at room temperature. 5% KHSO4 was added and the mixture was extracted with ethyl acetate. The extracts were dried over MgSO4 and concentrated. The residue was purified by silica gel column chromatography with 1:1 to 0:1 hexane/ethyl acetate to give the title compound (349 mg, 94%).

reactant | 1-(5-t-butyldimethylsilyloxypentyl)-4-bromo-6-iodo-3-hydroxy-3-(2-naphthyl)oxindole | 0.67 mmol, 450 mg | [Si](C)(C)(C(C)(C)C)OCCCCCN1C(C(C2=C(C=C(C=C12)I)Br)(C1=CC2=CC=CC=C2C=C1)O)=O | C29H35BrINO3Si
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mmol, 1 mL | C1CCOC1 | C4H8O
product | 1-(5-Hydroxypentyl)-4-bromo-6-iodo-3-hydroxy-3-(2-naphthyl)oxindole | 349 mg, 94% | OCCCCCN1C(C(C2=C(C=C(C=C12)I)Br)(C1=CC2=CC=CC=C2C=C1)O)=O | C23H21BrINO3
